US06645968B2
4-methyl-N-(2,2,2-trichloro-1-hydroxyethyl)benzamide
A mixture of p-toluamide (11.0 g, 81.3 mmol) and 2,2,2-trichloro-1,1-ethanediol (16.6 g, 100 mmol) in benzene (175 mL) was stirred at reflux in a Soxhlet extraction device charged with molecular sieves (20 g). After 12 hours, the extraction thimble of molecular sieves was replaced with a fresh portion of molecular sieves (20 g), and the reaction was allowed to heat at reflux for an additional 12 hours. Concentration in vacuo provided a heavy syrup which was dissolved in ethyl acetate (15 mL) and diluted with hexanes (175 mL). Refrigeration at 8° C. facilitated precipitation of a white solid that was collected by filtration and washed with hexanes to provide 20.2 g of the desired product.

reactant | p-toluamide | 81.3 mmol, 11.0 g | C1(=CC=C(C=C1)C(=O)N)C | C8H9NO
reactant | 2,2,2-trichloro-1,1-ethanediol | 100 mmol, 16.6 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
solvent | benzene | 175 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 4-methyl-N-(2,2,2-trichloro-1-hydroxyethyl)benzamide | 20.2 g | CC1=CC=C(C(=O)NC(C(Cl)(Cl)Cl)O)C=C1 | C10H10Cl3NO2
